US04349568
To a solution of 5.0 g (0.0202 mole) of 1-(4-(methylsulfonyl)phenoxy)benzene and 2.20 g (0.0280 mole) of acetyl chloride dissolved in 35 ml of methylene chloride (CH2Cl2) was slowly added 6.70 g (0.0503 mole) of anhydrous aluminum chloride. The mixture was heated at reflux for 45 minutes, cooled and poured over ice and concentrated hydrochloric acid (conc. HCl). Additional CH2Cl2 was added and the organic layer separated, washed with water and dried (Na2SO4). Removal of solvent in vacuo yielded 5.2 g (88.9% yield) of purified 1-(4-(4-(methylsulfonyl)phenoxy)phenyl)ethanone, mp 131°-132.5° C.

reactant | 1-(4-(methylsulfonyl)phenoxy)benzene | 0.0202 mole, 5.0 g | CS(=O)(=O)C1=CC=C(OC2=CC=CC=C2)C=C1 | C13H12O3S
reactant | acetyl chloride | 0.0280 mole, 2.20 g | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 0.0503 mole, 6.70 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-(4-(methylsulfonyl)phenoxy)phenyl)ethanone | 5.2 g, 88.9% yield | CS(=O)(=O)C1=CC=C(OC2=CC=C(C=C2)C(C)=O)C=C1 | C15H14O4S
